US04921851
In 30 ml of 1,2-dichloroethane is suspended 1.5 g of 6-(2-hydroxyethylthio)imidazo[l,2-b]pyridazine and with stirring at room temperature, 1.94 g of dihydropyran and 193 mg of pyridinium p-toluenesulfonate are added. The mixture is stirred at 65° C. for 4 hours, after which 1.5 g of dihydropyran and 100 mg of pyridinium p-toluenesulfonate are further added. The mixture is stirred for an additional 4 hours. After cooling, the reaction mixture is washed with 30 ml portions of water three times, dried over sodium sulfate, and concentrated under reduced pressure. The residue is subjected to silica gel (100 g) column chromatography and elution is carried out with ethyl acetate. The eluate is concentrated under reduced pressure to give 1.85 g of 6-[2-(2-tetrahydropyranyloxy)ethylthio]imidazo[l,2-b]pyridazine as colorless crystals melting at 60° to 62° C.

reactant | 6-(2-hydroxyethylthio)imidazo[l,2-b]pyridazine | 1.5 g | OCCSC=1C=CC=2N(N1)C=CN2 | C8H9N3OS
reactant | dihydropyran | 1.94 g | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 193 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | dihydropyran | 1.5 g | O1CCCC=C1 | C5H8O
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
catalyst | pyridinium p-toluenesulfonate | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 6-[2-(2-tetrahydropyranyloxy)ethylthio]imidazo[l,2-b]pyridazine | 1.85 g | O1C(CCCC1)OCCSC=1C=CC=2N(N1)C=CN2 | C13H17N3O2S
